US04350698
A mixture of 100 g. (0.75 mole) 1,2,3,4-tetrahydroisoquinoline and 150 ml. acetic anhydride was stirred at ambient temperature for 24 hours and then concentrated to dryness at reduced pressure. The residual liquid was dissolved in methylene chloride and solid potassium carbonate was added to neutralize the solution. The excess potassium carbonate was removed by filtration and the filtrate was concentrated to dryness at reduced pressure to afford 2-acetyl-1,2,3,4-tetrahydroisoquinoline as a yellow liquid.

reactant | 1,2,3,4-tetrahydroisoquinoline | 0.75 mole | C1NCCC2=CC=CC=C12 | C9H11N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=CC=CC=C2CC1 | C11H13NO
